* C:\Users\bruh\Documents\GitHub\PATRIK\Hardware\LTSpice Schematics\13.8v_linear_power_supply.asc
* Generated by LTspice 24.1.10 for Windows.
R1 N005 N004 0.5
V1 N004 0 SINE(0 120 60)
L1 N005 0 10
L2 N001 N007 312.5m
D1 0 N001 1N4004
D2 N001 N002 1N4004
D3 0 N007 1N4004
D4 N007 N002 1N4004
C2 N002 0 0.1µ
C6 P001 0 1
D5 0 N009 1N750
R2 N002 N009 100
X§U1 N009 N006 N002 0 N008 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R3 N003 N006 19k
R4 N006 0 10k
Q1 N002 N008 N003 0 NPN
R5 N003 0 3
C1 N003 0 1µ
R6 N002 P001 0.060
.model D D
.lib C:\Users\bruh\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\bruh\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 5.1 5
K1 L1 L2 1
.model 1N4004 D(Is=76.9n Rs=.02 N=1.45 Cjo=30p M=.333 Tt=5u)
.lib UniversalOpAmp1.lib
.backanno
.end
