* C:\Users\bruh\Documents\GitHub\PATRIK\Hardware\LTSpice Schematics\op_amp_mosfet_linear_regulator.asc
* Generated by LTspice 24.1.10 for Windows.
D1 0 N005 1N750
R1 N001 N005 100
V1 N001 0 SINE(13 .5 60)
R2 N004 0 10k
R3 N002 N004 5k
Q2 N001 N003 N002 0 NPN
X§U2 N005 N004 N001 0 N003 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
.model D D
.lib C:\Users\bruh\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\bruh\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 5.1 5
.lib UniversalOpAmp1.lib
.backanno
.end
